US05714438
1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)methanol (56 mg, 0.196 mmol) in THF (2.5 ml) was added dropwise to a suspension of NaH (12 mg, 0.40 mmol, 80% in mineral oil) in THF (0.5 ml) at ice-bath temperature and stirred for 45 minutes. NaI (56 mg, 0.37 mmol) was then added as a solid and benzyl chloride (50 μl, 54 mg, 0.90 mmol, 2.25 equivalent) via syringe. Dimethyl formamide (DMF) (0.5 ml) was added and the solution was allowed to warm to room temperature. When the reaction was complete, as determined by TLC (SiO2 ; hexane/EtOAc, 1:1), it was quenched with 30% aqueous HOAc, diluted with water and extracted with EtOAc (3 times). The combined extracts were washed with brine (sat.), dried (MgSO4), filtered and concentrated in vacuo to give 66 mg of crude material. Preparative thin layer chromatography (SiO2 ; hexane/EtOAc, 1:1) afforded 39 mg of 1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)-1-benzyloxymethane as an oil.

reactant | 1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)methanol | 0.196 mmol, 56 mg | FC(C1=NC=NC=C1C(O)C=1C(=NC=NC1)OC)(F)F | C11H9F3N4O2
reactant | NaH | 0.40 mmol, 12 mg | [H-].[Na+]
reactant | NaI | 0.37 mmol, 56 mg | [Na+].[I-]
reactant | benzyl chloride | 0.90 mmol, 50 μl, 54 mg, 2.25 equivalent | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | Dimethyl formamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)-1-benzyloxymethane | 39 mg | FC(C1=NC=NC=C1C(OCC1=CC=CC=C1)C=1C(=NC=NC1)OC)(F)F | C18H15F3N4O2
